US06310213B1
4[-2-(4-Benzyl-piperidine-1-yl)-ethanesulfonyl]-phenol hydrochloride (1:1)
To a solution of 1.15 g 4[-2-(4-benzyl-piperidine-1-yl)-ethanesulfonyl]-phenol (3.2 mmol) in EtOH (5 ml) was added ethanolic HCl (2.6 ml, 1.46 M, 3.8 mmol). The reaction mixture was cooled to 0-5° C. and stirred for 10 min. Then diethyl ether was added until the product precipitated. After filtration 1.14 g of the product (2.9 mmol, 91%) as a white solid was obtained.

reactant | 4[-2-(4-benzyl-piperidine-1-yl)-ethanesulfonyl]-phenol | 3.2 mmol, 1.15 g | C(C1=CC=CC=C1)C1CCN(CC1)CCS(=O)(=O)C1=CC=C(C=C1)O | C20H25NO3S
reactant | HCl | 3.8 mmol, 1.46 M, 2.6 ml | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | EtOH | 5 ml | CCO | C2H6O
product | 4[-2-(4-Benzyl-piperidine-1-yl)-ethanesulfonyl]-phenol hydrochloride | Cl.C(C1=CC=CC=C1)C1CCN(CC1)CCS(=O)(=O)C1=CC=C(C=C1)O | InChI=1S/C20H25NO3S.ClH/c22-19-6-8-20(9-7-19)25(23,24)15-14-21-12-10-18(11-13-21)16-17-4-2-1-3-5-17;/h1-9,18,22H,10-16H2;1H
